datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)CC)CC)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C([O-:21])CC)CC)CC 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C([H])C1O>>[OH:10]C(CCC)C([H])C([C:20](OCC)=[OH+:21])O 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]CC>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CC)CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C)C1=CC=CC=C1>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[O:10]([Na])C(C)C([H])C(O)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(O)C([H])C(C)[O+:10]1([Na]) 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]CC)[O]CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CC)C>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]C 10=20;20,21=21"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)=C(C)C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)/C(C)=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OCCCCCC)C.[O-:21][H]>>C1=CC=CC=C1N([C:20]([O-:10])(OCCCCCC)[O:21][H])C 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"C[O:10][H].C[NH+:21]=[C:20]([NH]CC)[NH][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21]CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)[H]>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])CC>>CN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[Cl:21])CC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)CC.[Cl-:21] 10=20;20,21=21"
"[O:10]([Na])C(CC)C(C)/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[H]C1C(O[C:20](=[O:10])N1CCCCCC)CCCCCC.[O-:21]C>>[H]C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CCCCCC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
